US07645881B2
A mixture of 2-amino-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile, prepared using the chemistry described in Example 1G (100 mg, 0.31 mmol), 3-trifluoromethyl-benzoyl chloride (77 mg, 0.37 mmol) and a catalytic amount of DMAP in pyridine (20 mL) was heated under reflux for one day. After concentration, the residue was partitioned between EtOAc and H2O. The organic layer was washed with brine, dried over MgSO4 and concentrated. The residue was purified by chromatography to give N-(3-cyano-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]inden-2-yl)-3-trifluoromethyl-benzamide (40 mg, 26%).

reactant | 2-amino-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]indene-3-carbonitrile | NC1=C(C=2C(=C3C(=NC2S1)CCCCC3)C=3SC=CC3)C#N | C17H15N3S2
reactant | 3-trifluoromethyl-benzoyl chloride | 0.37 mmol, 77 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-cyano-4-thiophen-2-yl-6,7,8,9-tetrahydro-5H-1-thia-10-aza-cyclohepta[f]inden-2-yl)-3-trifluoromethyl-benzamide | 40 mg, 26% | C(#N)C1=C(SC=2N=C3C(=C(C12)C=1SC=CC1)CCCCC3)NC(C3=CC(=CC=C3)C(F)(F)F)=O | C25H18F3N3OS2
